US07648998B2
A mixture of 4-amino-3-methyl-5-nitropyridine (1.198 g), iron powder (1.748 g), ethanol (52 mL) and hydrochloric acid (13 mL) was heated to reflux for 3 hours. After cooling to room temperature the ethanol was distilled off and the resulting suspension was diluted with water to 50 mL and the pH was adjusted to 13 by addition of 2N NaOH. Extraction with ethyl acetate (3×70 mL), drying of the combined organic phases of anhydrous sodium sulphate and evaporation of the solvent afforded 0.579 g (60%) of 3,4-diamino-5-methylpyridine.

reactant | 4-amino-3-methyl-5-nitropyridine | 1.198 g | NC1=C(C=NC=C1[N+](=O)[O-])C | C6H7N3O2
reactant | hydrochloric acid | 13 mL | Cl | ClH
catalyst | iron | 1.748 g | [Fe] | Fe
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 52 mL | C(C)O | C2H6O
product | 3,4-diamino-5-methylpyridine | 0.579 g, 60% | NC=1C=NC=C(C1N)C | C6H9N3
